US05142056
A. (((4-Morpholinyl)carbonyl)oxy)-4-methylpentanoic Acid Methyl Ester
To 2-hydroxy-4-methylpentanoic acid methyl ester was added 150 ml of 12.5% phosgene in toluene and 25 drops of dimethylformamide. After stirring for 16 h at room temperature, the solvent was evaporated and the residue chased several times with benzene. The resulting product was dissolved in methylene chloride (50 ml), cooled to 0° C. and treated by dropwise addition with 3.86 g (0.044 mol) of morpholine. The reaction mixture was stirred for 2 h at 0°-5° C. and then distributed between 0.5N HCl and methylene chloride. The organic phase was washed with aqueous NaHCO3 and brine and evaporated to a residue. Flash chromatography on silica gel gave the desired compound.

reactant | 2-hydroxy-4-methylpentanoic acid methyl ester | COC(C(CC(C)C)O)=O | C7H14O3
reactant | phosgene | 150 ml | C(=O)(Cl)Cl | CCl2O
reactant | morpholine | 0.044 mol, 3.86 g | N1CCOCC1 | C4H9NO
reactant | HCl | 0.5N | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | dimethylformamide | 25 drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (((4-Morpholinyl)carbonyl)oxy)-4-methylpentanoic Acid Methyl Ester | COC(C(CC(C)C)OC(=O)N1CCOCC1)=O | C12H21NO5
